US04542136
2-(4-propionyl 1-piperazinyl)pyrimidine (SR 41682)
5.6 g of acid maleate of 2-(1-piperazinyl)pyrimidine are dissolved in 80 ml of dimethylformamide, then 5.6 ml of triethylamine and 3.8 g of 3,4-methylenedioxy benzoyl chloride are added. The mixture is heated for 12 hours at 130° C. then the solvent is evaporated to dryness in vacuo. The residue is taken up in a dilute solution of hydrochloric acid and washed with ether. The aqueous phase is rendered alkaline by a sodium carbonate solution and extracted with ethyl acetate. The solution is dried over sodium sulfate and the solvent is evaporated to dryness.

reactant | maleate | 5.6 g | C(\C=C/C(=O)[O-])(=O)[O-]
reactant | 2-(1-piperazinyl)pyrimidine | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
reactant | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-methylenedioxy benzoyl chloride | 3.8 g | C1OC=2C=C(C(=O)Cl)C=CC2O1 | C8H5ClO3
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2-(4-propionyl 1-piperazinyl)pyrimidine | C(CC)(=O)N1CCN(CC1)C1=NC=CC=N1 | C11H16N4O
